US06121323
1,1'-(m-Phenylene)bis(1-methyl-1-(3-hydroxy-3-(1-ethylpropyl)ureido)ethane)
A solution of 1,3-Bis(1-isocyanato-1-methylethyl)benzene (2.3 ml, 10 mmol) and dichloromethane (100 ml) was charged with N-(1-ethylpropyl)hydroxylamine (2.2 g, 21.3 mmol). A precipitate formed immediately and the resulting mixture was maintained overnight. The precipitate was recovered by filtration and dried in vacuo to yield 4.0 g of the desired product as a white powder. Recrystallization from N,N-dimethylformamide.backslash.water provided an analytically pure sample: MP: 170.5-172.0° C. ; 1H NMR (300 MHz, DMSO): δ 8.91 (s, 2H), 7.37 (s, 1H), 7.18 (apparent d, J=1.0 Hz, 3H), 6.53 (s, 2H), 3.75-3.65 (m, 2H), 1.57 (s, 12H), 1.51-1.30 (m, 8H), 0.80 (t, J=7.3 Hz, 12 H); 13C NMR (75 MHz, DMSO): δ 159.3, 147.7, 127.1, 122.2, 121.0, 59.5, 54.3, 29.8, 24.4, 11.2; IR (KBr): 3436, 3160, 2963, 2928, 2873, 1632, 1520, 1380, 1361, 1270, 1232, 1160, 790, 702 cm-1 ; Anal. calc'd for C24H42N4O4 : C, 63.97; H, 9.39; N, 12.43. Found: C, 63.81; H, 9.35; N, 12.48.

reactant | 1,3-Bis(1-isocyanato-1-methylethyl)benzene | 10 mmol, 2.3 ml | N(=C=O)C(C)(C)C1=CC(=CC=C1)C(C)(N=C=O)C | C14H16N2O2
reactant | N-(1-ethylpropyl)hydroxylamine | 21.3 mmol, 2.2 g | C(C)C(CC)NO | C5H13NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,1'-(m-Phenylene)bis(1-methyl-1-(3-hydroxy-3-(1-ethylpropyl)ureido)ethane) | 4.0 g | C1(=CC(=CC=C1)C(C)(C)NC(=O)N(O)C(CC)CC)C(C)(NC(=O)N(C(CC)CC)O)C | C24H42N4O4
